US04826982
3-Bromo-2,4,5-trifluorobenzoyl chloride
A solution of the 3-bromo-2,4,5-trifluorobenzoic acid (2.5 g) in thionyl chloride (10 ml) was refluxed for 2.5 hours, and then concentrated. The resulting residue was purified by distillation through Widmer fractionating column to give the title compound (2.3 g), bp 98°-102° C./18 mmHg.

reactant | 3-bromo-2,4,5-trifluorobenzoic acid | 2.5 g | BrC=1C(=C(C(=O)O)C=C(C1F)F)F | C7H2BrF3O2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-Bromo-2,4,5-trifluorobenzoyl chloride | 2.3 g | BrC=1C(=C(C(=O)Cl)C=C(C1F)F)F | C7HBrClF3O
